### PR TITLE
feat: `HashMap.empty_find?` + helper lemmas

### PR DESCRIPTION
**Pull request by technosentience**
Unsure how this interacts with #279, but it's marked as `proof_wanted` so why not.

### CODE REVIEW

**Comment by technosentience** [comment]
awaiting-review

File: Std/Data/HashMap/Lemmas.lean [hunk 1]
```diff
@@ -4,12 +4,15 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
 -/
 import Std.Data.HashMap.Basic
+import Std.Data.Array.Lemmas
 import Std.Util.ProofWanted
 
 namespace Std.HashMap
 
-@[simp] proof_wanted empty_find? [BEq α] [Hashable α] {a : α} :
-    (∅ : HashMap α β).find? a = none
+@[simp] theorem empty_buckets [BEq α] [Hashable α] : (∅ : HashMap α β).1.buckets.1 = mkArray 8 AssocList.nil := rfl
```
Comment (digama0) [inline Std/Data/HashMap/Lemmas.lean:12]: This should be in the `HashMap.Imp` namespace as it is talking about implementation details.

Comment (technosentience) [reply Std/Data/HashMap/Lemmas.lean]: Fixed + split in two.

File: Std/Data/HashMap/Lemmas.lean [hunk 2]
```diff
@@ -4,12 +4,21 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
 
-@[simp] proof_wanted empty_find? [BEq α] [Hashable α] {a : α} :
-    (∅ : HashMap α β).find? a = none
+namespace Imp
+
+@[simp] theorem empty_buckets : (empty : Imp α β).buckets = ⟨mkArray 8 AssocList.nil, by simp⟩ := rfl
+
+end Imp
+
+@[simp] theorem empty_imp [BEq α] [Hashable α] : (∅ : HashMap α β).1 = Imp.empty := rfl
```
Comment (joehendrix) [inline Std/Data/HashMap/Lemmas.lean:18]: It looks like `empty_imp` should be put in the `Imp` namespace similar to `empty_buckets`.

Comment (technosentience) [reply Std/Data/HashMap/Lemmas.lean]: Done, does the new name work?

File: Std/Data/Array/Lemmas.lean [hunk 3]
```diff
@@ -30,6 +30,9 @@ theorem getElem?_neg [GetElem Cont Idx Elem Dom]
 
 @[simp] theorem mkArray_data (n : Nat) (v : α) : (mkArray n v).data = List.replicate n v := rfl
 
+@[simp] theorem mkArray_getElem (n : Nat) (v : α) (h : i < n) :
+    (mkArray n v)[i]'(by simp [h]) = v := by simp [Array.getElem_eq_data_get]
```
Comment (joehendrix) [inline Std/Data/Array/Lemmas.lean:34]:
```suggestion
@[simp] theorem getElem_mkArray (n : Nat) (v : α) (h : i < (mkArray n v).size) :
    (mkArray n v)[i]'h = v := by simp [Array.getElem_eq_data_get]
```

**Comment by technosentience** [comment]
awaiting-review

**Review by digama0 — APPROVED** [review]

File: Std/Data/HashMap/Lemmas.lean [hunk 4]
```diff
@@ -4,12 +4,21 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+import Std.Data.Array.Lemmas
 import Std.Util.ProofWanted
 
 namespace Std.HashMap
 
-@[simp] proof_wanted empty_find? [BEq α] [Hashable α] {a : α} :
-    (∅ : HashMap α β).find? a = none
+namespace Imp
+
+@[simp] theorem empty_buckets : (empty : Imp α β).buckets = ⟨mkArray 8 AssocList.nil, by simp⟩ := rfl
```
Comment (timotree3) [inline Std/Data/HashMap/Lemmas.lean:14]: Do we really want to be hard-coding 8 here? It seems like either this should be a constant `Imp.emptyCapacity` or we should avoid stating it. If we want to avoid stating this lemma entirely, the `simp` invocation in `empty_find?` could be fixed be adding `[Imp.empty', Imp.empty, Imp.Buckets.mk]`.

File: Std/Data/HashMap/Lemmas.lean [hunk 5]
```diff
@@ -4,12 +4,21 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+
+@[simp] theorem empty_val [BEq α] [Hashable α] : (∅ : HashMap α β).val = Imp.empty := rfl
+
+end Imp
+
+@[simp] theorem empty_find? [BEq α] [Hashable α] {a : α} :
+    (∅ : HashMap α β).find? a = none := by simp [find?, Imp.find?, Imp.mkIdx, USize.modn_lt]
```
Comment (timotree3) [inline Std/Data/HashMap/Lemmas.lean:21]:
```suggestion
    (∅ : HashMap α β).find? a = none := by simp [find?, Imp.find?]
```
The goal is closed without those two lemmas on my machine

Comment (technosentience) [reply Std/Data/HashMap/Lemmas.lean]: Fixed, this was due to my previous definition of `getElem_mkArray`

File: Std/Data/HashMap/Lemmas.lean (hunk 4 above)
Comment (joehendrix) [reply Std/Data/HashMap/Lemmas.lean]: That's a good catch.  I think the approach of adding additional defs to unfold is good.

Alternatively, `empty_buckets` should work over any user-defined `capacity` value passed into `Imp.empty`.
